US09388192B2
2-bromo-5,6-dichloro-1H-1,3-benzodiazole
5,6-dichloro-2,3-dihydro-1H-1,3-benzodiazole-2-thione (2 mmol, 438 mg) was dissolved in MeOH (20 ml). The reaction mixture was cooled to 0° C. and hydrobromic acid (0.4 ml) was added, then bromine (8 mmol, 1.3 g) was added. The resulting mixture was stirred at RT overnight, then Na2SO4 was added. Next MeOH was evaporated. The aqueous layer was extracted with DCM. The product was purified on silica gel using EA/hex (1:1) to afford yellow solid (1 mmol, 260 mg), m/z 266.7; rt 2.8 min.

reactant | 5,6-dichloro-2,3-dihydro-1H-1,3-benzodiazole-2-thione | 2 mmol, 438 mg | ClC1=CC2=C(NC(N2)=S)C=C1Cl | C7H4Cl2N2S
reactant | hydrobromic acid | 0.4 ml | Br | BrH
reactant | bromine | 8 mmol, 1.3 g | BrBr | Br2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | 2-bromo-5,6-dichloro-1H-1,3-benzodiazole | 1 mmol, 260 mg | BrC1=NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
